US08067448B2
N′-((2R,3R)-2-(4-Cyanonaphthalen-1-ylamino)-3-hydroxybutanoyl)benzohydrazide
To a pre-cooled (−45° C.) solution of (2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoic acid (1.50 g, 5.55 mmol) and benzohydrazide (756 mg, 5.55 mmol) in anhydrous THF (80 mL) was added 1-hydroxybenzotriazole monohydrate (850 mg, 5.55 mmol) and N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide-HCl (2.13 g, 11.1 mmol) at −45° C. followed by triethylamine (1.55 mL, 11.1 mmol). The reaction mixture warmed to room temperature and stirred for 24 h, then quenched with 5% aq. citric acid (300 mL). The solution was extracted with EtOAc (300 mL). The organic extract was washed with 5% aq. citric acid (2×150 mL), sat. aq. NaHCO3 (3×150 mL), H2O (2×150 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide the title compound as a off white solid (1.80 g, 83%): 1H NMR (400 MHz, CDCl3, δ in ppm) 10.58 (br s, 1H), 10.34 (br s, 1H), 8.48 (d, J=9.0 Hz, 1H), 7.98 (d, J=8.0 Hz, 1H), 7.91 (d, J=8.4 Hz, 1H), 7.88 (d, J=7.2 Hz, 1H), 7.74 (t, J=7.4 Hz, 1H), 7.62 (t, J=8.0 Hz, 1H), 7.57 (t, J=8.6 Hz, 1H), 7.48 (t, J=8.0 Hz, 2H), 6.93 (d, J=8.6 Hz, 1H), 6.74 (d, J=8.4 Hz, 1H), 5.26 (d, J=4.9 Hz, 1H), 4.32-4.22 (m, 1H), 4.16 (t, J=7.8 Hz, 1H), 1.33 (d, J=6.3 Hz, 3H).

reactant | (2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoic acid | 5.55 mmol, 1.50 g | C(#N)C1=CC=C(C2=CC=CC=C12)N[C@@H](C(=O)O)[C@@H](C)O | C15H14N2O3
reactant | benzohydrazide | 5.55 mmol, 756 mg | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | 1-hydroxybenzotriazole monohydrate | 5.55 mmol, 850 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide-HCl | 11.1 mmol, 2.13 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 11.1 mmol, 1.55 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | N′-((2R,3R)-2-(4-Cyanonaphthalen-1-ylamino)-3-hydroxybutanoyl)benzohydrazide | C(#N)C1=CC=C(C2=CC=CC=C12)N[C@@H](C(=O)NNC(C1=CC=CC=C1)=O)[C@@H](C)O | C22H20N4O3
